US09284308B2
3-Benzyl-6-bromo-2-(trifluoromethyl)quinolin-4-ol
A mixture of 2-amino-5-bromobenzoic acid (2.53 g, 11.7 mmol), 1,1,1-trifluoro-4-phenylbutan-2-one (2.83 g, 14.0 mmol, see reference Yang, D; Wong, M; Yan, Z. J. Org. Chem. 2000, 65, 4179-4184), and Eaton's reagent (8.8 mL) in a sealed pressure tube was heated at 100° C. for 4 hours. The mixture was then cooled down to room temperature, ice-water was added slowly, and the mixture was stirred vigorously for about 15 minutes. The precipitated solid was filtered, washed with water, and air dried over night to afford the title compound as a light brown solid.

reactant | 2-amino-5-bromobenzoic acid | 11.7 mmol, 2.53 g | NC1=C(C(=O)O)C=C(C=C1)Br | C7H6BrNO2
reactant | 1,1,1-trifluoro-4-phenylbutan-2-one | 14.0 mmol, 2.83 g | FC(C(CCC1=CC=CC=C1)=O)(F)F | C10H9F3O
reactant | Eaton's reagent | 8.8 mL | CS(=O)(=O)O.O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3
product | 3-Benzyl-6-bromo-2-(trifluoromethyl)quinolin-4-ol | C(C1=CC=CC=C1)C=1C(=NC2=CC=C(C=C2C1O)Br)C(F)(F)F | C17H11BrF3NO
